US06376519B1
1-(4-Sulfamylphenyl)-3-trifluoromethyl-5-phenyl-2-pyrazoline
A solution of trans-1,1,1-trifluoro-4-phenyl-3-buten-2-one (5 mmol) and 4-sulfamylphenyl hydrazine hydrochloride (6 mmol) was subjected to Procedure 3. The title compound was obtained in 73% yield, m.p. 132-135° C.; C, H analysis (C18H15SO2N4F3.H2O):

reactant | trans-1,1,1-trifluoro-4-phenyl-3-buten-2-one | 5 mmol | FC(C(\C=C\C1=CC=CC=C1)=O)(F)F | C10H7F3O
reactant | 4-sulfamylphenyl hydrazine hydrochloride | 6 mmol | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 1-(4-Sulfamylphenyl)-3-trifluoromethyl-5-phenyl-2-pyrazoline | 73% yield | S(N)(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1C1=CC=CC=C1)C(F)(F)F | C16H14F3N3O2S
